US05455253
4-(3,4-Dichlorophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone.
A mixture of 1-(3,4-dichlorophenyl)but-1-en-3-one (5.0 g), 1,3-cyclohexanedione (2.71 g), ammonium acetate (2.70 g) and ethanol (75 mL) was heated at reflux for ten hours. The reaction was worked up as described in Example 8, and recrystallization from ethyl acetate-hexane yielded the title compound (2.6 g) as an off-white solid, mp 199°-201° C.; NMR: 1.74 (s,3, CH3), 1.84-1.88 (m,2, CH2), 2.14-2.19 (m,2, CH2), 2.41-2.46 (m,2, CH2), 4.42 (d,1, J=4.7, CH), 4.59 (d,1, J=4.7, CH), 7.12 (dd,1, J=8.3,2.0, Ar), 7.31 (d,1, J=2.0, Ar), 7.48 (d,1, J=8.3, Ar), 8.55 (s,1, NH); (CI, CH4) MS: m/z=308(M+1). Analysis for C16H15Cl2NO: Calculated C, 62.35; H, 4.91; N, 4.54; Found: C, 62.03; H, 5.09; N, 4.44.

reactant | 1-(3,4-dichlorophenyl)but-1-en-3-one | 5.0 g | ClC=1C=C(C=CC1Cl)C=CC(C)=O | C10H8Cl2O
reactant | 1,3-cyclohexanedione | 2.71 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 2.70 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 4-(3,4-Dichlorophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone | 2.6 g | ClC=1C=C(C=CC1Cl)C1C=C(NC=2CCCC(C12)=O)C | C16H15Cl2NO
